US04410536
7.8,9,10-Tetrahydrothieno[3.2-e]pyrido[4,3-b]indole
15 g of 5-hydrazinobenzothiophene hydrochloride and 15 g of 4-piperidone are boiled in 450 ml of isopropanol under a reflux condenser for 2 hours. After cooling the mixture, the precipitate which has separated out is filtered off and suspended in 2 N NaOH. A layer of methylene chloride is introduced under the suspension and the mixture is stirred; the layers are then separated and the organic phase is washed, dried and evaporated. After recrystallisation of the residue from isopropanol, 7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole of melting point 190° is obtained.

reactant | 5-hydrazinobenzothiophene hydrochloride | 15 g | Cl.N(N)C=1C=CC2=C(C=CS2)C1
reactant | 4-piperidone | 15 g | N1CCC(CC1)=O | C5H9NO
solvent | isopropanol | 450 ml | C(C)(C)O | C3H8O
product | 7.8,9,10-Tetrahydrothieno[3.2-e]pyrido[4,3-b]indole | C1=CSC=2C1=C1C3=C(NC1=CC2)CCNC3 | C13H12N2S
